US06919361B2
1H-NMR (CDCl3): δ 2.68 (3H, s), 3.87 (3H, s), 7.28 (1H, dd, J=8.2, J=3.1), 8.08 (1H, d, J=3.1), 8.44 (1H, m), 9.69 (1H, brs) (2) t-Butyl 3-({[(5-methoxy-2-pyridyl)amino]carbothioyl}amino)propylcarbamate
Methyl 5-methoxy-2-pyridyldithiocarbamate (950 mg) and t-butyl 3-aminopropylcarbamate (772 mg) were treated in a similar manner to in Reference Example 58, and crystallized from n-hexane-ethanol to give the title compound (1.51 g).

reactant | Methyl 5-methoxy-2-pyridyldithiocarbamate | 950 mg | COC=1C=CC(=NC1)NC(SC)=S | C8H10N2OS2
reactant | t-butyl 3-aminopropylcarbamate | 772 mg | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
product | t-Butyl 3-({[(5-methoxy-2-pyridyl)amino]carbothioyl}amino)propylcarbamate | 1.51 g | COC=1C=CC(=NC1)NC(=S)NCCCNC(OC(C)(C)C)=O | C15H24N4O3S
